US06495541B1
Following a procedure from JOC 1998, p. 8224, 2-iodo-1,3,4,5-tetrahydro-azepino[5,4,3-cd]indol-6-one (100 mg, 0.32 mmol), sodium cyanide (31 mg, 0.64 mmol), palladium tetrakis(triphenylphosphine) (19 mg, 0.05 mmol), and copper(I) iodide were combined in a schlenk tube. The vessel was evacuated and refilled with argon gas three times. Degassed propionitrile (2 mL) was added, and the reaction was stirred at 80° C. under an argon atmosphere for 15 h. The reaction mixture was partitioned between water and 25% iPrOH/CHCl3. The layers were separated and the aqueous layer extracted thrice with 25% iPrOH/CHCl3. The combined organic layers were dried (MgSO4) and concentrated in vacuo. The yellow solid was recrystallized from CH2Cl2/MeOH/hexanes to yield 6-oxo-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indole-2-carbonitrile, 38 mg (56%) as a pale yellow solid: m.p. 315° C. (dec); 1H NMR (300 MHz, d6-DMSO) δ3.04 (m, 2H), 3.47 (m, 2H), 7.46 (t, J=7.5 Hz, 1H), 7.64 (dd, J=8.1, 0.9 Hz, 1H), 7.81 (dd, J=7.2, 0.9 Hz, 1H), 8.24 (br t, 1H), 12.44 (br s, 1H). MS (electrospray, [M+Na]+): 234. Anal. (C12H9N3O) C, H, N.

reactant | 2-iodo-1,3,4,5-tetrahydro-azepino[5,4,3-cd]indol-6-one | 0.32 mmol, 100 mg | IC=1NC=2C=CC=C3C2C1CCNC3=O | C11H9IN2O
reactant | sodium cyanide | 0.64 mmol, 31 mg | [C-]#N.[Na+]
catalyst | palladium tetrakis(triphenylphosphine) | 0.05 mmol, 19 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
catalyst | copper(I) iodide | [Cu]I
product | 6-oxo-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indole-2-carbonitrile | O=C1NCCC2=C(NC=3C=CC=C1C23)C#N | C12H9N3O
